US07585880B2
5-methyl-4-phenyl-1,3-oxazol-2(3H)-one
To a solution of 2-hydroxy-1-phenylpropan-1-one (1.00 g, 6.66 mmol) and potassium cyanate (1.08 g, 13.3 mmol) in 2-propanol (15 mL) was added dropwise acetic acid (960 mg, 16.0 mmol) at 50° C. over 1 hr. The mixture was stirred at 50° C. for 5 hr, and the reaction mixture was poured into water. The resulting precipitate was collected by filtration and recrystallized from isopropyl ether-hexane to give the title compound (430 mg, yield 37%) as white crystals.

reactant | 2-hydroxy-1-phenylpropan-1-one | 6.66 mmol, 1.00 g | OC(C(=O)C1=CC=CC=C1)C | C9H10O2
reactant | potassium cyanate | 13.3 mmol, 1.08 g | [O-]C#N.[K+]
reactant | acetic acid | 16.0 mmol, 960 mg | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | 2-propanol | 15 mL | CC(C)O | C3H8O
product | 5-methyl-4-phenyl-1,3-oxazol-2(3H)-one | 430 mg, yield 37% | CC1=C(NC(O1)=O)C1=CC=CC=C1 | C10H9NO2
